US05409928
Preparation of 4-benzylphenylacetonitrile
To a solution of 4-benzylbenzyl chloride (198.34 g) in dimethylchloride (DMF) (50 ml) was added in turn sodium hydrogen carbonate (76.88 g) and sodium cyanide (56.07 g). In that case, the solution was cooled as occasion demands, since heat is slightly generated. After stirring at room temperature for 17 hours, DMF (100 ml) was further added. After stirring at room temperature for 67 hours, ethyl acetate (300 ml) was added, and the precipitate was filtered, washed with ethyl acetate (300 ml). The filtrate and the washings were combined, washed with saturated aqueouse sodium chloride solution (20 ml×4), dried over anhydrous sodium sulfate, concentrated under reduced pressure to give the title compound (189.69 g).

reactant | 4-benzylbenzyl chloride | 198.34 g | C(C1=CC=CC=C1)C1=CC=C(CCl)C=C1 | C14H13Cl
reactant | sodium hydrogen carbonate | 76.88 g | C(O)([O-])=O.[Na+]
reactant | sodium cyanide | 56.07 g | [C-]#N.[Na+]
reactant | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | 4-benzylphenylacetonitrile | 189.69 g | C(C1=CC=CC=C1)C1=CC=C(C=C1)CC#N | C15H13N
